US04804661
A solution of 6.51 g of 3-dimethylaminobenzoyl chloride in 130 ml of methylene chloride is added dropwise, over a period of 10 minutes, to a solution, stirred at room temperature, of 7.97 g of 1-[2-(4-chlorophenyl)-ethyl]-piperazine and 3.6 g of triethylamine in 150 ml of methylene chloride. The reaction mixture is stirred overnight at room temperature, diluted with methylene chloride, rendered alkaline with 2N NaOH and washed with water, dried over sodium sulphate and concentrated to dryness by evaporation. The residue is recrystallised from ethanol. 1-[2-(4-chlorophenyl)-ethyl]-4-(3-dimethylaminobenzoyl)-piperazine having a melting point of 110°-112° is thus obtained.

reactant | 3-dimethylaminobenzoyl chloride | 6.51 g | CN(C=1C=C(C(=O)Cl)C=CC1)C | C9H10ClNO
reactant | 1-[2-(4-chlorophenyl)-ethyl]-piperazine | 7.97 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
reactant | triethylamine | 3.6 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | 2N | [OH-].[Na+]
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(3-dimethylaminobenzoyl)-piperazine | ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=CC(=CC=C1)N(C)C)=O | C21H26ClN3O
